US03969323
5.2 g (25 mMoles) of 4-methyl-6-methacryloyloxymethylpyrone-(2) and 3.6 g (25 mMoles) of β-methoxyethyl methacrylate in 9 ml of benzene are polymerized with 5 mg of AIBN as the initiator for 6 hours at 80°C as described in Example 1 and worked up analogously. 8.1 g of white powder which is readily soluble in methylene chloride, chloroform, butanone or ethylene glycol monomethyl ether are obtained. RSV = 1.1 (25°C; 1% in CHCl3)

reactant | AIBN | 5 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | butanone | CC(CC)=O | C4H8O
reactant | ethylene glycol monomethyl ether | COCCO | C3H8O2
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | β-methoxyethyl methacrylate | 25 mMoles, 3.6 g | C(C(=C)C)(=O)OCCOC | C7H12O3
